US09382197B2
methyl 4-acetyl-3-methylbenzoate
Methyl 4-bromo-methylbenzoate (2.146 g, 9.368 mmol), 1,3-bis(diphenylphosphino)propane (0.21 g, 0.52 mmol), sodium carbonate (2.19 g, 20.6 mmol) and palladium (II) acetate (0.10 g, 0.47 mmol) were combined in a vial and purged with argon. Methanol (10.7 mL, 265 mmol) and n-butyl vinyl ether (4.83 mL, 37.5 mmol) were added by syringe. The resulting mixture was further sonicated under argon flow for several minutes then heated at 90° C. overnight. Upon cooling to room temperature, the reaction was diluted with methanol (10 mL). Celite (2 g) was added, the mixture thoroughly homogenized and filtered. The filter cake was washed with several mL of methanol. To the red/brown methanolic filtrate was added 6M aqueous HCl (6.5 mL). The solution turned yellow and then turbid white over stirring at room temperature (0.3 h). The solvent was removed under reduced pressure and the residue obtained was partitioned between ethyl acetate (75 mL) and water (30 mL). The aqueous phase was extracted with ethyl acetate (30 mL). The extracts were combined, washed with saturated aqueous sodium bicarbonate then brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude residue was dried in vacuo to remove butanol. The residue was purified by silica gel chromatography (5-20% EtOAC/hexanes gradient) to afford the title compound as an off-white solid (1.49 g, 83%). LC-MS: (FA) ES+ 193; 1H NMR (400 MHz, DMSO) δ 7.89-7.83 (m, 3H), 3.86 (s, 3H), 2.57 (s, 3H), 2.44 (s, 3H).

reactant | Methyl 4-bromo-methylbenzoate | 9.368 mmol, 2.146 g | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | sodium carbonate | 20.6 mmol, 2.19 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-butyl vinyl ether | 37.5 mmol, 4.83 mL | C(=C)OCCCC | C6H12O
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium (II) acetate | 0.47 mmol, 0.10 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenylphosphino)propane | 0.52 mmol, 0.21 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | Methanol | 265 mmol, 10.7 mL | CO | CH4O
product | methyl 4-acetyl-3-methylbenzoate | 1.49 g, 83% | C(C)(=O)C1=C(C=C(C(=O)OC)C=C1)C | C11H12O3
